US07018988B2
b) Protocol for the Formation of the Fused Heterocyclic Ring
A solution of the anilide compound from the previous step, e.g. tert-butyl (2S,4EZ)-2-[(2-aminoanilino)carbonyl]-4-(methoxyimino)-1-pyrrolidinecarboxylate (0.8 g, 2.3 mmol) in dichloromethane (30 ml) and acetic acid (3 ml) was stirred at room temperature for 3 days. Saturated aqueous sodium bicarbonate (7 ml) was added to the reaction, the organic phase collected and dried over magnesium sulfate before filtering and removal of solvent in vacuo to give the desired product, e.g. tert-butyl (2S,4EZ)-2-(1H-benzimidazol-2-yl)-4-(methoxyimino)-1-pyrrolidinecarboxylate (740 mg, 97%) as an off-white foam.

reactant | tert-butyl (2S,4EZ)-2-[(2-aminoanilino)carbonyl]-4-(methoxyimino)-1-pyrrolidinecarboxylate | 2.3 mmol, 0.8 g | NC1=C(NC(=O)[C@H]2N(CC(C2)=NOC)C(=O)OC(C)(C)C)C=CC=C1 | C17H24N4O4
reactant | sodium bicarbonate | 7 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | tert-butyl (2S,4EZ)-2-(1H-benzimidazol-2-yl)-4-(methoxyimino)-1-pyrrolidinecarboxylate | 740 mg, 97% | N1C(=NC2=C1C=CC=C2)[C@H]2N(CC(C2)=NOC)C(=O)OC(C)(C)C | C17H22N4O3
